US07015218B1
N-[3-Carbamoyl-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide 5/2 hydrate
By the reaction and treatment in the same manner as in Example 64 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid (2.0 g) and 5-amino-2-(4-morpholinopiperidin-1-yl)benzamide (2.5 g), the title compound (0.94 g) was obtained, melting point: 270° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid | 2.0 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl)benzamide | 2.5 g | NC=1C=CC(=C(C(=O)N)C1)N1CCC(CC1)N1CCOCC1 | C16H24N4O2
product | N-[3-Carbamoyl-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide | 0.94 g | C(N)(=O)C=1C=C(C=CC1N1CCC(CC1)N1CCOCC1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl | C27H31ClN6O3
